US05106871
Then, 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone was dissolved in 7.5 ml of methanol, and 7.5 ml of hydrochloride acid/methanol was added to the solution and the mixture was heated and refluxed. After the reaction, the solvent was removed from the reaction mixture by distillation and the obtained residue was dissolved in a small amount of ethyl acetate and crystallized from ether/hexane to obtain 3.5 g (yield=of 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(3-hydroxy-4-methoxyphenyl)-1-propanone in the form of a colorless transparent rectangular crystal.

reactant | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC(=C(C=C1)OC)OCOC)=O)OCC(=O)OC)CCC(C)C | C28H38O9
reactant | hydrochloride | 7.5 ml | Cl | ClH
solvent | methanol | 7.5 ml | CO | CH4O
product | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(3-hydroxy-4-methoxyphenyl)-1-propanone | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC(=C(C=C1)OC)O)=O)OCC(=O)OC)CCC(C)C | C26H34O8
